US04176184
7,7-Dimethyl-2-phenyl-5-(2-diethylamino-ethyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione dihydrochloride
Prepared analogous to Example 23 from 5.1 gm of 7,7-dimethyl-2-phenyl-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione hydrochloride and 3.4 gm of 2-diethylamino-ethyl chloride hydrochloride,

reactant | 7,7-dimethyl-2-phenyl-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione hydrochloride | 5.1 gm | Cl.CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)C3=CC=CC=C3)C
reactant | 2-diethylamino-ethyl chloride hydrochloride | 3.4 gm | Cl.C(C)N(CCCl)CC
product | 7,7-Dimethyl-2-phenyl-5-(2-diethylamino-ethyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione dihydrochloride | Cl.Cl.CC1(N=CC2=C3C(C(C(C2C1=O)CCN(CC)CC)=O)=NC(=N3)C3=CC=CC=C3)C | InChI=1S/C24H28N4O2.2ClH/c1-5-28(6-2)13-12-16-18-17(14-25-24(3,4)22(18)30)19-20(21(16)29)27-23(26-19)15-10-8-7-9-11-15;;/h7-11,14,16,18H,5-6,12-13H2,1-4H3;2*1H
